US07015328B2
3-Cyano-7-methyl-4-(3-nitro-phenyl)-2-oxo-2H-pyrrolo[2,3-h]chromene
A solution of 3-cyano-2-imino-7-methyl-4-(3-nitro-phenyl)-2H-pyrrolo[2,3-h]chromene (31 mg, 0.087 mmol) 10% HCl (3 mL) and methanol (5 mL) was stirred at room temperature for 7 h. The reaction mixture was neutralized with 10% NaOH. The yellow precipitate was collected by vacuum filtration, washed with water, and dried in vacuo (24 mg, 77%). 1H NMR (acetone-d6): 8.58-8.52 (m, 2H), 8.11 (dt, J=7.2, 0.9 Hz, 1H), 8.03 (dt, J=7.8, 0.9 Hz, 1H), 7.53 (d, J=3.3 Hz, 1H), 7.49 (dd, J=0.6, 8.7 Hz, 1H), 7.05 (d, J=8.7 Hz, 1H), 6.94 (dd, J=0.9, 3.3 Hz, 1H), 3.97 (s, 3H).

reactant | 3-cyano-2-imino-7-methyl-4-(3-nitro-phenyl)-2H-pyrrolo[2,3-h]chromene | 0.087 mmol, 3 mL, 31 mg | C(#N)C=1C(OC2=C3C(=CC=C2C1C1=CC(=CC=C1)[N+](=O)[O-])N(C=C3)C)=N | C19H12N4O3
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 3-Cyano-7-methyl-4-(3-nitro-phenyl)-2-oxo-2H-pyrrolo[2,3-h]chromene | C(#N)C=1C(OC2=C3C(=CC=C2C1C1=CC(=CC=C1)[N+](=O)[O-])N(C=C3)C)=O | C19H11N3O4
